US04288435
Preparation of 7-[2-(2-Phosphonoethoxyimino)-2-(2-aminothiazol-4-yl)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer).
A mixture of 7-[2-{2-(O,O-diethylphosphono)ethoxyimino}-2-(2-formamidothiazol-4-yl)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (6.2 g.) methylene chloride (90 ml.) and bis(trimethylsilyl)acetamide (9.2 g.) was stirred for 30 minutes at room temperature and thereto was added trimethylsilyl bromide (6.9 g.) over a period of 30 minutes with stirring at 20° to 25° C. and then stirring was continued for 5 hours at 25° to 27° C. The reaction mixture containing 7-[2-(2-phosphonoethoxyimino)-2-(2-formamidothiazol-4-yl)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) was concentrated and to the residue were added cold methanol (100 ml.) and cold conc. hydrochloric acid (4 ml.) followed by stirring for an hour at room temperature and a further addition of conc. hydrochloric acid (2 ml.). The resulting mixture was stirred for an hour at room temperature and then concentrated. To the residue was added water (300 ml.) and the mixture was adjusted to pH 2 to 3 with sodium bicarbonate and then subjected to column chromatography (non-ion adsorption resin, Diaion HP 20 prepared by Mitsubishi Chemical Industries) (200 ml.). The column was washed with water (1 l.) and then eluted successively with 10% methanol (1 l.), 20% methanol (1 l.), 30% methanol (1 l.) and 40% methanol (2 l.). The fractions containing the desired compound were evaporated to give the title compound (3.7 g.), mp. 180° to 210° C.) (dec.).

reactant | bis(trimethylsilyl)acetamide | 9.2 g | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | trimethylsilyl bromide | 6.9 g | C[Si](C)(C)Br | C3H9BrSi
reactant | 7-[2-(2-phosphonoethoxyimino)-2-(2-formamidothiazol-4-yl)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | P(=O)(O)(O)CCON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)C=1N=C(SC1)NC=O | C18H20N9O9PS3
solvent | methylene chloride | 90 ml | C(Cl)Cl | CH2Cl2
product | 7-[2-(2-Phosphonoethoxyimino)-2-(2-aminothiazol-4-yl)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 3.7 g | P(=O)(O)(O)CCON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)C=1N=C(SC1)N | C17H20N9O8PS3
